US05736539
1-tert-Butoxycarbonyl-2(S)-n-butylpiperazine
The title compound was prepared according to the procedure described in Example 2, Step C, except using 4-benzyl-1-tert-butoxycarbonyl-2(S)-n-butylpiperazine (3.75 g, 11.3 mmol) and 10% palladium on carbon (0.80 g). The title compound was obtained as an oil (2.68 g). NMR (300 MHz, CDCl3) δ 4.08 (1H, br s), 3.90 (1H, d, J=12 Hz), 2.5-3.8 (6H, m), 1.80 (1H, m), 1.60 (1H, m), 1.46 (9H, s), 1.30 (4H, m),0.90 (3H, t, J=7 Hz).

reactant | 4-benzyl-1-tert-butoxycarbonyl-2(S)-n-butylpiperazine | 11.3 mmol, 3.75 g | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCC | C20H32N2O2
catalyst | palladium on carbon | 0.80 g | [Pd] | Pd
product | 1-tert-Butoxycarbonyl-2(S)-n-butylpiperazine | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCC | C13H26N2O2
